US06136823
Synthesis of 1-(5-Amino-2,4-difluorophenyl)-6-fluoro-7-methylamino-8-methylthio-4-oxo-1,4-dihydroquinoline-3-carboxylic Acid
1-(5-Amino-2,4-difluorophenyl)-6,7-difluoro-8-methylthio-4-oxo-1,4-dihydroquinoline-3-carboxylic acid (50 mg) was added to pyridine (100 mg). A 40% aqueous solution (120 mg) of methylamine was added, and the resultant mixture was stirred overnight at room temperature and for additional 2 days at 50° C. After the reaction mixture was allowed to cool, the solvent was distilled off under reduced pressure. Ethanol (1 ml) was added to the residue, and solids deposited were collected by filtration to obtain the title compound (25 mg) as a pale brown powder.

reactant | 1-(5-Amino-2,4-difluorophenyl)-6,7-difluoro-8-methylthio-4-oxo-1,4-dihydroquinoline-3-carboxylic acid | 50 mg | NC=1C(=CC(=C(C1)N1C=C(C(C2=CC(=C(C(=C12)SC)F)F)=O)C(=O)O)F)F | C17H10F4N2O3S
reactant | methylamine | CN | CH5N
solvent | pyridine | 100 mg | N1=CC=CC=C1 | C5H5N
product | 1-(5-Amino-2,4-difluorophenyl)-6-fluoro-7-methylamino-8-methylthio-4-oxo-1,4-dihydroquinoline-3-carboxylic Acid | 25 mg | NC=1C(=CC(=C(C1)N1C=C(C(C2=CC(=C(C(=C12)SC)NC)F)=O)C(=O)O)F)F | C18H14F3N3O3S
